US07728155B2
To a solution of 2-allyl-4-chloro-1-naphthol (20.0 g, 0.091 mol) in N,N-dimethylformamide (700 mL) was added sodium hydride (60 wt. %, 4.39 g, 0.11 mol) and the reaction mixture was allowed to stir at room temperature for 30 min. Benzyl bromide (18.8 g, 0.11 mol) was then added and the reaction mixture was allowed to stir at room temperature for 2 h. The solvent was removed in vacuo to provide a crude oil. The residue was re-dissolved in ethyl acetate (500 mL) and the organic layer was washed with water (2×250 mL), saturated aqueous sodium chloride (250 mL), dried (sodium sulfate) and the solvent was removed in vacuo to provide a crude oil. Purification by flash column chromatography (silica, dichloromethane:hexanes 1:4) provided 23.0 g (82%) of 2-allyl-1-(benzyloxy)4-chloronaphthalene as a light brown oil. Treatment of the benzyl ether with AD-mix-α (104.3 g) generally according to the procedure described for Intermediate 2 afforded 24.0 g (94%) of (±)-3-[1-(benzyloxy)-4-chloro-2-naphthyl]propane-1,2-diol as a white solid. mp 69-71° C.; Anal. calcd. for C20H19ClO: C, 70.07; H, 5.59. Found: C, 68.01; H, 5.47.

reactant | 2-allyl-4-chloro-1-naphthol | 0.091 mol, 20.0 g | C(C=C)C1=C(C2=CC=CC=C2C(=C1)Cl)O | C13H11ClO
reactant | sodium hydride | 0.11 mol, 4.39 g | [H-].[Na+]
reactant | Benzyl bromide | 0.11 mol, 18.8 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | N,N-dimethylformamide | 700 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
product | 2-allyl-1-(benzyloxy)4-chloronaphthalene | 23.0 g, 82% | C(C=C)C1=C(C2=CC=CC=C2C(=C1)Cl)OCC1=CC=CC=C1 | C20H17ClO
